US07265115B2
3-(3-pyridinyl)-3,7-diazabicyclo[3.3.1]nonane
3,7-Diazabicyclo[3.3.1]nonane, prepared as described in (Garrison, G. L. et. al., J. Org. Chem. 58, 27, (1993) 7670), and 3-bromopyridine were processed as described in Example 1A. The proportions of reagents were changed from Example 1A to the following: Pd2(dba)3 (0.02 eq), BINAP (0.05 eq), and NaOt-Bu (1.7 eq). The title compound was obtained in 25% yield after purification by flash chromatography (silica gel; CHCl3:MeOH:NH4OH; 90:5:1). MS (DCI/NH3) m/z 204 (M+H)+.

reactant | 3,7-Diazabicyclo[3.3.1]nonane | C12CNCC(CNC1)C2 | C7H14N2
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | BINAP | 0.05 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.7 eq | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(3-pyridinyl)-3,7-diazabicyclo[3.3.1]nonane | 25% yield | N1=CC(=CC=C1)N1CC2CNCC(C1)C2 | C12H17N3
